US07253286B2
5-(6,7-Dimethoxyquinolin-4-yloxy)pyridin-2-ylamine
After suspending 6-chloro-5-(6,7-dimethoxyquinolin-4-yloxy)pyridin-2-ylamine (500 mg, 1.51 mmol) in a mixed solvent of methanol (20 ml), tetrahydrofuran (10 ml) and triethylamine (3 ml), palladium carbon (300 mg) was added and the mixture was stirred for 15 hours at room temperature under a hydrogen atmosphere. The catalyst was filtered off by celite filtration, washing was performed with ethanol, and the filtrate was distilled off under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (eluent—ethyl acetate), and the fraction containing the target substance was concentrated, suspended in ethyl acetate and diluted with hexane, after which the crystals were filtered out, washed with hexane and then blow-dried to obtain the title compound (138 mg, 0.465 mmol, 31%) as colorless crystals.

reactant | 6-chloro-5-(6,7-dimethoxyquinolin-4-yloxy)pyridin-2-ylamine | 1.51 mmol, 500 mg | ClC1=C(C=CC(=N1)N)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C16H14ClN3O3
reactant | methanol | 20 ml | CO | CH4O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium carbon | 300 mg | [C].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(6,7-Dimethoxyquinolin-4-yloxy)pyridin-2-ylamine | 0.465 mmol, 138 mg, 31% | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=CC(=NC1)N | C16H15N3O3
